US05948786
Synthesis of 1-benzoylisonipecotic acid
To an ice cold solution of isonipecotic acid (90 g, 0.697 mol) and potassium carbonate (81 g, 1.31 mol) in water (1.3 liter) was added dropwise benzoyl chloride (81 ml, 0.697 mol) over a period of about an hour at about 5° C. The mixture was stirred at room temperature overnight. The reaction mixture was acidified with 6N hydrochloric acid and extracted with dichloromethane. The organic layer was washed with water and then dried over magnesium sulfate and the solvent was evaporated in vacuo. Crystallization from isopropyl alcohol-diethyl ether to give the titled compound (154.4 g).

reactant | isonipecotic acid | 0.697 mol, 90 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | potassium carbonate | 1.31 mol, 81 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.697 mol, 81 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 1.3 liter | O | H2O
product | 1-benzoylisonipecotic acid | 154.4 g | C(C1=CC=CC=C1)(=O)N1CCC(C(=O)O)CC1 | C13H15NO3
